US07645789B2
A mixture of N-[2-(1-methyl-cyclopropylethynyl)-4-nitro-phenyl]-butyramide (1.3 g, 4.6 mmol) and TBAF (2.4 g, 9.2 mmol) in THF (20 mL) was heated at reflux for 24 h. The mixture was cooled to room temperature and poured into ice water. The mixture was extracted with CH2Cl2 (30 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=10/1) to afford 2-(1-methylcyclopropyl)-5-nitro-1H-indole (0.70 g, 71%). 1H NMR (400 MHz, CDCl3) δ 8.56 (brs, 1H), 8.44 (d, J=2.0 Hz, 1H), 8.01 (dd, J=2.4, 8.8 Hz, 1H), 7.30 (d, J=8.8 Hz, 1H), 6.34 (d, J=1.6 Hz, 1H), 1.52 (s, 3H), 1.03-0.97 (m, 2H), 0.89-0.83 (m, 2H).

reactant | N-[2-(1-methyl-cyclopropylethynyl)-4-nitro-phenyl]-butyramide | 4.6 mmol, 1.3 g | CC1(CC1)C#CC1=C(C=CC(=C1)[N+](=O)[O-])NC(CCC)=O | C16H18N2O3
reactant | TBAF | 9.2 mmol, 2.4 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(1-methylcyclopropyl)-5-nitro-1H-indole | 0.70 g, 71% | CC1(CC1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H12N2O2
